US06921762B2
Step B: 2-((1-methyl-1-phenylethyl)amino)-4-chloro-5-(4-fluorophenyl)-6-(4-pyridyl)pyrimidine
5-(4-fluorophenyl)-3-methyl-2-((1-methyl-1-phenylethyl)amino)-6-(4-pyridyl)-(3H)-pyrimidin-4-one (1.24 g, 2.99 mmol), benzyltriethylammonium chloride (2.04 g, 8.97 mmol), and diisopropylethylamine (1.16 g, 1.6 mL 8.97 mmol) were combined in phosphorous oxychloride (ca. 20 mL) and the resulting solution was heated at 100° C. for 16 h. The reaction was cooled to RT, the phosphorous oxychloride was evaporated in vacuo and the residue was partitioned between sat. aq. NaHCO3 and CHCl3. The organic layer was dried over Na2SO4 and then concentrated. The residue was purified by flash chromatography (20% EtOAc:CHCl3) to provide the product as a white solid; MS m/z (M+H)+ 419; C24H20ClFN4 requir. 418.8.

reactant | 5-(4-fluorophenyl)-3-methyl-2-((1-methyl-1-phenylethyl)amino)-6-(4-pyridyl)-(3H)-pyrimidin-4-one | 2.99 mmol, 1.24 g | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)NC(C)(C1=CC=CC=C1)C)C)=O | C25H23FN4O
reactant | diisopropylethylamine | 8.97 mmol, 1.6 mL, 1.16 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphorous oxychloride | ca. 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | benzyltriethylammonium chloride | 8.97 mmol, 2.04 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-((1-methyl-1-phenylethyl)amino)-4-chloro-5-(4-fluorophenyl)-6-(4-pyridyl)pyrimidine | CC(C)(C1=CC=CC=C1)NC1=NC(=C(C(=N1)Cl)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C24H20ClFN4
